US06846833B2
Step a: 1,3,4,5-Tetrahydro-2H-3-benzazepin-2-one
While maintaining the temperature of the reaction mixture below 65° C., NaN3 (13.35 g; 205.2 mmol) is added in small portions to a solution, heated beforehand to 55° C., of β-tetralone (25 g; 171 mmol) in a mixture of 150 ml of glacial acetic acid and concentrated sulphuric acid (33.39 g; 342 mmol; 18.25 ml). Stirring is then carried out for 8 hours at 70° C. After returning to ambient temperature, the reaction mixture is poured onto ice and diluted with ethyl acetate. After extracting the organic phase, drying over magnesium sulphate and concentrating, the residue obtained is purified by chromatography on silica gel (eluant ethyl acetate) to yield the expected compound.

reactant | NaN3 | 205.2 mmol, 13.35 g | [N-]=[N+]=[N-].[Na+]
reactant | β-tetralone | 171 mmol, 25 g | C1CC2=CC=CC=C2CC1=O | C10H10O
reactant | sulphuric acid | 342 mmol, 18.25 ml, 33.39 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3,4,5-Tetrahydro-2H-3-benzazepin-2-one | C1C(NCCC2=C1C=CC=C2)=O | C10H11NO
